US07659279B2
Pyridine hydrochloride (2.33 g) was added in one portion to a stirred mixture of N-(3-chloro-4-fluorophenyl)-5,7-dimethoxyquinazolin-4-amine (6.4 g) in pyridine (75 ml) at room temperature. The reaction mixture was stirred at 115° C. under a nitrogen atmosphere for 23 hours and then the brown solution was cooled to room temperature and the yellow precipitate was filtered and washed with ice cold water to leave a light yellow solid. The solid was taken up in 7N ammonia in methanol and stirred at room temperature for 10 minutes. The solution was filtered and the filtrate was concentrated in vacuo to leave 4-[(3-chloro-4-fluorophenyl)-amino]-7-methoxyquinazolin-5-ol as a light brown solid (4.2 g, 68%); Mass spectrum MH+ 320.

reactant | Pyridine hydrochloride | 2.33 g | Cl.N1=CC=CC=C1
reactant | N-(3-chloro-4-fluorophenyl)-5,7-dimethoxyquinazolin-4-amine | 6.4 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC)OC | C16H13ClFN3O2
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
solvent | ammonia | 7N | N | H3N
solvent | methanol | CO | CH4O
product | 4-[(3-chloro-4-fluorophenyl)-amino]-7-methoxyquinazolin-5-ol | 4.2 g, 68% | ClC=1C=C(C=CC1F)NC1=NC=NC=2C=C(C=C(C12)O)OC | C15H11ClFN3O2
